US07265246B2
Prepare a solution of 1-amino-2-propanol (5.0 g, 66.6 mmol) in methylene chloride (250 mL) at 0° C. under nitrogen. Add Hünig's Base (11.6 mL, 66.6 mmol) followed by benzoyl chloride (7.7 mL, 66.6 mmol). Warm the reaction mixture to room temperature and stir overnight. Wash the solution sequentially with brine (100 mL) and 1M HCl (75 mL), dry (Na2SO4), filter, and concentrate to afford 10.0 g of N-(2-hydroxypropyl)benzamide. MS: m/e=180 (MH+)

reactant | 1-amino-2-propanol | 66.6 mmol, 5.0 g | NCC(C)O | C3H9NO
reactant | Hünig's Base | 66.6 mmol, 11.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzoyl chloride | 66.6 mmol, 7.7 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxypropyl)benzamide | 10.0 g | OC(CNC(C1=CC=CC=C1)=O)C | C10H13NO2
